US09216999B2
Benzyl 3-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidine-4-carbonyl)piperidine-1-carboxylate
Isopropylmagnesium chloride (2.0 M solution in tetrahydrofuran, 0.4 mL, 0.80 mmol) was gradually added dropwise to 4-iodo-7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidine (200 mg, 0.530 mmol) obtained in Reference Synthetic Examplea 15 in tetrahydrofuran (3 mL) cooled to −78° C., and the resulting reaction mixture was stirred at −78° C. for 15 minutes. The reaction mixture was warmed to room temperature and stirred with (2,6-dimethylphenyl)magnesium bromide (1.0 M solution in tetrahydrofuran, 0.8 mL, 0.80 mmol) and benzyl 3-[methoxy(methyl)carbamoyl]piperidine-1-carboxylate (245 mg, 0.800 mmol) in tetrahydrofuran (3.0 mL) at room temperature for 2.5 hours. After addition of saturated aqueous ammonium chloride, the reaction mixture was extracted with ethyl acetate, and the organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=4/1→2/1→1/1 (v/v)) to give the title compound as a yellow oil (107 mg, yield 41%).

reactant | Isopropylmagnesium chloride | 0.80 mmol, 2.0 M, 0.4 mL | C(C)(C)[Mg]Cl
reactant | 4-iodo-7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidine | 0.530 mmol, 200 mg | IC=1C2=C(N=CN1)N(C=C2)COCC[Si](C)(C)C | C12H18IN3OSi
reactant | (2,6-dimethylphenyl)magnesium bromide | 0.80 mmol, 1.0 M, 0.8 mL | CC1=C(C(=CC=C1)C)[Mg]Br
reactant | benzyl 3-[methoxy(methyl)carbamoyl]piperidine-1-carboxylate | 0.800 mmol, 245 mg | CON(C(=O)C1CN(CCC1)C(=O)OCC1=CC=CC=C1)C | C16H22N2O4
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3.0 mL | O1CCCC1 | C4H8O
product | Benzyl 3-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidine-4-carbonyl)piperidine-1-carboxylate | 107 mg, yield 41% | C[Si](CCOCN1C=CC2=C1N=CN=C2C(=O)C2CN(CCC2)C(=O)OCC2=CC=CC=C2)(C)C | C26H34N4O4Si
